US05604226
Synthesis of 4-bromo-6-[2-(2-chlorophenylsulfinyl)ethyloxy]-5-(3,4-dimethoxyphenylmethylamino)-3(2H)-pyridazinone (Compound 19)
To a solution of 0.4 g of 4-bromo-6-[2-(2-chlorophenylthio)ethyloxy]-5-(3,4-dimethoxyphenylmethylamino)-3(2H)-pyridazinone in 30 ml of dichloromethane was added dropwise a solution of 0.15 g of metachloroperbenzoic acid in 5 ml of dichloromethane at 0° C. The excess peracid was decomposed by the addition of saturated aqueous sodium thiosulfate. The mixture was diluted with dichloromethane, washed with brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silicagel to give 0.34 g of the objective compound. Yield, 83%, Melting point, 183°-185° C.

reactant | 4-bromo-6-[2-(2-chlorophenylthio)ethyloxy]-5-(3,4-dimethoxyphenylmethylamino)-3(2H)-pyridazinone | 0.4 g | BrC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OC)OCCSC1=C(C=CC=C1)Cl)=O | C21H21BrClN3O4S
reactant | metachloroperbenzoic acid | 0.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-bromo-6-[2-(2-chlorophenylsulfinyl)ethyloxy]-5-(3,4-dimethoxyphenylmethylamino)-3(2H)-pyridazinone | 0.34 g | BrC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OC)OCCS(=O)C1=C(C=CC=C1)Cl)=O | C21H21BrClN3O5S
